GaN synchronous buck converter: 100 V DC in, 50 V DC out, 250 W
* ===================================================================
* buck.cir -- the CONVERTER, running.
*
* The double-pulse test (dpt.cir) characterises one switching edge. It is
* the right instrument for measuring crosstalk and switching loss, but it
* is a test bench, not a converter: it never delivers power to a load.
*
* This file is the converter that test bench is a measurement of. Same GaN
* devices, same segmented gate drivers, same dead time -- now switching
* continuously into an output filter and a load, converting 100 V DC into
* 50 V DC at 5 A.
*
*      100 V DC  ->  half-bridge chops it at 500 kHz  ->  L-C filter
*                ->  50 V DC into a 10 ohm load
*
* Q1 (high side) is the control switch; Q2 (low side) is the synchronous
* rectifier. Duty ratio D sets the output: Vout = D * Vin.
* ===================================================================

.include ../models/egan.lib
.include ../models/segdrv.lib

* ==================== PARAM BLOCK ==================================
.param VIN=100
.param D=0.5
.param FSW=500k
.param LOUT=22u
.param COUT=4.7u
.param RLOAD=10
.param VDRV=5
.param VNEG=0
.param NPU_LS=8
.param NPD_LS=8
.param NPU_HS=8
.param NPD_HS=8
.param DT=15n
.param CLKEN=1
.param RUNIT=8
.param TJ=25
* ==================== END PARAM BLOCK ==============================

.param KT    = {1 + 0.009*(TJ-25)}
.param BH_T  = {5.55/KT}
.param VTH_T = {1.4 - 0.0015*(TJ-25)}

.param TSW   = {1/FSW}
.param TON   = {D*TSW - DT}
.param TLS   = {(1-D)*TSW - 2*DT}
.param TLSD  = {D*TSW + DT}
.param TR    = 0.5n
.param LLOOP = 3n

.param VO    = {D*VIN}
.param IO    = {VO/RLOAD}
.param NCYC  = 150
.param TSTOP = {NCYC*TSW}

* ---------------- input source and its current sense ---------------
Vin    vin 0 DC {VIN}
Vsin   vin bus DC 0                   $ measures the current drawn from the supply

* ---------------- power stage --------------------------------------
Rloop  bus n1  0.3                    $ power-loop parasitic resistance
*                                     $ same value as the double-pulse bench:
*                                     $ 0.05 gives Q~600 and 30 ringing cycles,
*                                     $ which no real GaN half-bridge does.
Lloop  n1  hstop {LLOOP}              $ power-loop parasitic inductance

* ---------------- bus decoupling -----------------------------------
* THIS WAS MISSING, AND IT COST 38 V OF OVERSHOOT.
* Without it the only path from the supply to the half-bridge is Rloop +
* Lloop, so every turn-on has to pull its current through 3 nH from an
* ideal source. scripts/output_audit.py opened the waveform and found the
* switch node reaching 168 V on a 100 V bus -- 84 % of the modelled
* device's rating -- as a ~0.6 ns spike at each high-side turn-on, where
* the node swings from the third-quadrant drop (-2.4 V) to the bus
* through that inductance and the low-side device's Coss.
*
* That is correct physics for a circuit with no decoupling, and no real
* GaN half-bridge is built that way: there is always ceramic right at the
* devices, and its loop is short. Modelled as a realistic part rather
* than an ideal capacitor -- 100 nF with its own ESL and ESR -- because
* an ideal one would flatter the result:
*
*     no decoupling        168 V   +68 %
*     100 nF, 0.5 nH ESL   116 V   +16 %     <- shipped
*     1 uF,   0.5 nH ESL   117 V   +17 %     (no better: ESL sets it)
*
* 1 uF buys nothing over 100 nF, which is the tell that the ESL and not
* the capacitance is what limits it. Slowing the turn-on with the
* segmented driver also helps (NPU_HS=2 gives 125 V) and costs switching
* energy; decoupling costs a part.
*
* NOTE sim/dpt.cir deliberately does NOT get this. It is the
* characterisation bench, its loop inductance is a swept parameter
* (scripts/lloop_analyse.py sweeps it from 1.0 to 4.5 nH), and adding a
* decoupling path would remove the quantity being swept.
.param CDEC=100n
.param LDEC=0.5n
* RDEC damps the decoupling branch, and the value matters more than it looks.
* At 20m this network is a series L-C with Q ~ 3.5 at ~22 MHz, and the
* switching edges pump it every cycle. At a 100 V bus that is survivable;
* at 200 V it rings the switch node to 464 V, drives the low-side gate to
* +11.78 V against a 1.4 V threshold and puts 112 A through a 10 A load.
* sim/dpt.cir has no decoupling network, which is why the double-pulse deck
* showed none of this and the two decks disagreed. At 1 ohm the branch is
* damped, the two decks agree (208.2 V here against dpt.cir's 207.3 V), and
* it is better at 100 V too: 118.0 V instead of 128.3, gate margin +2.37 V
* instead of +1.67, efficiency 97.42 % instead of 97.39, device dissipation
* 2.598 W instead of 2.800. See scripts/decoupling_damping.py.
.param RDEC=1
Ldec   hstop ndec1 {LDEC}
Cdec   ndec1 ndec2 {CDEC}
Rdec   ndec2 0     {RDEC}
Vshs   hstop hsd DC 0
Xhs    hsd hsg sw EGAN params: vth={VTH_T} bh={BH_T}
Vsls   sw  lsd DC 0
Xls    lsd lsg 0  EGAN params: vth={VTH_T} bh={BH_T}

* ---------------- output filter and load ---------------------------
Lo     sw  nlo {LOUT} IC=0
Vsout  nlo out DC 0                   $ measures the current into the load
Resr   out nc  0.3                    $ output capacitor ESR
Co     nc  0   {COUT} IC=0
Rload  out 0   {RLOAD}

* ---------------- gate timing (what the FPGA emits) ----------------
* High side conducts for D*Tsw, minus the dead time at its trailing edge.
* Low side conducts for the rest, minus a dead time at each end.
Vpwmhs pwmhs 0 PULSE(0 1 0 {TR} {TR} {TON} {TSW})
Vpwmls pwmls 0 PULSE(0 1 {TLSD} {TR} {TR} {TLS} {TSW})

* ---------------- low-side driver (ground referenced) --------------
Vlsvp  lsvp 0 DC {VDRV}
Vlsvn  lsvn 0 DC {VNEG}
Blspu  lspu 0 V = {v(pwmls)}
Blspd  lspd 0 V = {1-v(pwmls)}
Blsclk lsclk 0 V = {CLKEN*(1-v(pwmls))}      $ clamp holds the gate down when off
Xdrvls lspu lspd lsclk lsg lsvp lsvn 0 SEGDRV
+      params: npu={NPU_LS} npd={NPD_LS} runit={RUNIT} rclamp=0.5

* ---------------- high-side driver (floating on SW) ----------------
Vhsvp  hsvp sw DC {VDRV}
Vhsvn  hsvn sw DC {VNEG}
Bhspu  hspu sw V = {v(pwmhs)}
Bhspd  hspd sw V = {1-v(pwmhs)}
Bhsclk hsclkl sw V = {CLKEN*(1-v(pwmhs))}
Xdrvhs hspu hspd hsclkl hsg hsvp hsvn sw SEGDRV
+      params: npu={NPU_HS} npd={NPD_HS} runit={RUNIT} rclamp=0.5

* ---------------- analysis -----------------------------------------
.options reltol=1e-3 abstol=1e-10 vntol=1e-6 chgtol=1e-15 gmin=1e-12
* Output starts at zero: the run shows the converter charging its own
* output up and settling, which is the thing being claimed.
.ic v(sw)=0 v(lsg)={VDRV} v(hsg)={VNEG} v(out)=0

.tran 0.2n {TSTOP} 0 2n uic

.control
run
wrdata buck.dat v(vin) i(vsin) v(sw) v(out) i(vsout) v(lsg) v(hsg)
quit
.endc
.end
